US07612075B2
E. 6-Bromomethyl-3-chloro-1-(toluene-4-sulfonyl)-1H-indole.
To a solution of [3-chloro-1-(toluene-1-sulfonyl)-1H-indol-6-yl]-methanol (0.45 g, 1.34 mmol) in 13 mL of Et2O at 0° C. is added phosphorous tribromide (0.04 mL, 0.40 mmol). The mixture is stirred at 0° C. for 15 min, then at room temperature for 2 hours. The mixture is quenched by the addition of water/ice and diluted with Et2O. The layers are separated and the organic phase is washed with saturated NaHCO3 solution, water and saturated NaCl solution. The organic layer is dried over anhydrous MgSO4, filtered and concentrated to provide the title compound (0.47 g, 1.18 mmol) as an oil. The crude product is used in the subsequent step without further purification. 1H NMR (CDCl3, 300 MHz) δ8.09 (s, 1H), 7.79 (d, 2H), 7.59 (s, 1H), 7.50 (d, 1H), 7.35 (d, 1H), 7.27 (m, 2H), 4.66 (s, 2H), 2.39 (s, 3H).

reactant | [3-chloro-1-(toluene-1-sulfonyl)-1H-indol-6-yl]-methanol | 1.34 mmol, 0.45 g | ClC1=CN(C2=CC(=CC=C12)CO)S(=O)(=O)C1(CC=CC=C1)C | C16H16ClNO3S
reactant | phosphorous tribromide | 0.40 mmol, 0.04 mL | P(Br)(Br)Br | Br3P
reactant | Et2O | 13 mL | CCOCC | C4H10O
product | 6-Bromomethyl-3-chloro-1-(toluene-4-sulfonyl)-1H-indole | 1.18 mmol, 0.47 g | BrCC1=CC=C2C(=CN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)Cl | C16H13BrClNO2S
